US06455550B1
Preparation of 4-Iodo-2-butanone Ethylene Ketal
A solution of 4 bromo-2-butanone ethylene ketal (16.4 mmol, 3.2 g) in acetone (30 mL) was treated with sodium iodide (24 mmol, 3.7 g) and sodium carbonate (50 mmol, 5.1 g) and was reluxed overnight. The resulting mixture was filtered, washed with acetone (10 mL) and evaporated to dryness to a white solid. The residue was triturated with a mixture of 1:1 ether:pet ether (20 mL), stirred 30 min., filtered and evaporated to give 3.74 g (94%) of a pale yellow oil. LR-ES (C13H22O4): 243 (M+H).

reactant | bromo-2-butanone ethylene ketal | 16.4 mmol, 3.2 g | C1COC(CBr)(CC)O1 | C6H11BrO2
reactant | sodium iodide | 24 mmol, 3.7 g | [I-].[Na+]
reactant | sodium carbonate | 50 mmol, 5.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-Iodo-2-butanone Ethylene Ketal | 3.74 g, 94% | C1COC(C)(CCI)O1 | C6H11IO2
